US07645753B2
3,5-Diethoxy-4-methoxy-benzaldehyde
To a solution of (3,5-diethoxy-4-methoxy-phenyl)-methanol (0.26 g, 1.15 mmol, 1.0 equiv) in THF (10 mL) was added activated MnO2 (1.0 g, 11.49 mmol, 10.0 equiv) and the reaction mixture stirred at rt for 4 h. Filtration through Hyflo Super Cel, concentration by evaporation under reduced pressure and purification with column chromatography on silica eluting with hexane/ethyl acetate (5:1) yielded 0.12 g (48%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 1.47 (t, J=7.0 Hz, 6H), 3.94 (s, 3H), 4.14 (q, J=7.0 Hz, 4H), 7.10 (s, 2H), 9.84 (s, 1H). MS (ISP): 225.1 [M+H]+.

reactant | (3,5-diethoxy-4-methoxy-phenyl)-methanol | 1.15 mmol, 0.26 g, 1.0 equiv | C(C)OC=1C=C(C=C(C1OC)OCC)CO | C12H18O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 11.49 mmol, 1.0 g, 10.0 equiv | O=[Mn]=O
product | 3,5-Diethoxy-4-methoxy-benzaldehyde | 0.12 g, 48% | C(C)OC=1C=C(C=O)C=C(C1OC)OCC | C12H16O4
